US09290451B2
a) 6-Chloro-5-cyclopropyl-pyridine-2-carboxylic acid methyl ester
To a mixture of palladium(II)acetate (17.9 mg, 79.8 μmol), butyl-1-adamantylphosphine (42.9 mg, 120 μmol), potassium cyclopropyltrifluoroborate (597 mg, 4.03 mmol) and cesium carbonate (3.9 g, 12.0 mmol) under an argon atmosphere was added a solution of 5-bromo-6-chloro-pyridine-2-carboxylic acid methyl ester (CAN 1214353-79-3, 1 g, 3.99 mmol) in toluene (25.2 ml) and water (2.8 mL) under an argon atmosphere. The reaction mixture was heated to 100° C. for 20 h, diluted with water (17.5 ml), poured onto 100 ml ice/brine and extracted with i-PrOAc (2×100 mL). The combined extracts were dried over sodium sulfate and concentrated in vacuo to give a yellow liquid. This crude material was purified by column chromatography (70 g SiO2, n-heptane/i-PrOAc 0-10% over 120 min) to give the title compound (497 mg, 59%) as yellow solid, MS (EI): m/e=212.0 [M+H]+.

reactant | potassium cyclopropyltrifluoroborate | 4.03 mmol, 597 mg | C1(CC1)[B-](F)(F)F.[K+]
reactant | cesium carbonate | 12.0 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-6-chloro-pyridine-2-carboxylic acid methyl ester | 3.99 mmol, 1 g | COC(=O)C1=NC(=C(C=C1)Br)Cl | C7H5BrClNO2
solvent | toluene | 25.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2.8 mL | O | H2O
solvent | water | 17.5 ml | O | H2O
catalyst | palladium(II)acetate | 79.8 μmol, 17.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | butyl-1-adamantylphosphine | 120 μmol, 42.9 mg | C(CCC)PC12CC3CC(CC(C1)C3)C2 | C14H25P
product | 6-Chloro-5-cyclopropyl-pyridine-2-carboxylic acid methyl ester | 497 mg, 59% | COC(=O)C1=NC(=C(C=C1)C1CC1)Cl | C10H10ClNO2
